US05840751
5,6-Dihydro-4-hydroxy-6-(3-methylbutyl)-6-phenyl-3-phenylthio-2H-pyran-2-one, (+/-)
The title compound was prepared as described in General Method 6 from 1.5 mmol of 3-bromo-5,6-dihydro-4-hydroxy-6-(3-methylbutyl) -6-phenyl-2H-pyran-2-one (prepared in example CCC), 1.6 mmol of benzenethiol, and 1.6 mmol of piperidine in 20 mL of dichloromethane. The crude product was chromatographed on silica gel, eluting first with chloroform and then with 5% methanol in chloroform, to give the title compound, (m.p. 154°-155° C.). 1H NMR (DMSO-d6) δ 0.80 (m, 6 H), 0.97 (m, 1 H), 1.16 (m, 2 H), 1.42 (m, 1 H), 1.91 (m, 2 H), 3.40 (2 H+H2O), 6.45 (m, 2 H), 6.93 (m, 3 H), 7.37 (m, 5 H).

reactant | 3-bromo-5,6-dihydro-4-hydroxy-6-(3-methylbutyl) -6-phenyl-2H-pyran-2-one | 1.5 mmol | BrC=1C(OC(CC1O)(C1=CC=CC=C1)CCC(C)C)=O | C16H19BrO3
reactant | benzenethiol | 1.6 mmol | C1(=CC=CC=C1)S | C6H6S
reactant | piperidine | 1.6 mmol | N1CCCCC1 | C5H11N
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 5,6-Dihydro-4-hydroxy-6-(3-methylbutyl)-6-phenyl-3-phenylthio-2H-pyran-2-one | OC1=C(C(OC(C1)(C1=CC=CC=C1)CCC(C)C)=O)SC1=CC=CC=C1 | C22H24O3S
